US08440666B2
4-Bromo-2-[4-(pyridin-4-yl)butyl]-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
4-Bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one (221 mg, 0.677 mmol) in N,N-dimethylformamide (4 mL) was mixed with 4-(4-chlorobutyl)pyridine hydrochloride (278 mg, 1.35 mmol) and potassium carbonate (375 mg, 2.71 mmol) at room temperature and stirred at 80° C. for 6.5 hours. After cooling, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/methanol=50/1) to give the desired product (38 mg, 12% yield).

reactant | 4-Bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 0.677 mmol, 221 mg | BrC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O | C14H20BrN3O
reactant | 4-(4-chlorobutyl)pyridine hydrochloride | 1.35 mmol, 278 mg | Cl.ClCCCCC1=CC=NC=C1
reactant | potassium carbonate | 2.71 mmol, 375 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-2-[4-(pyridin-4-yl)butyl]-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 38 mg, 12% yield | BrC=1C(N(N=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)CCCCC2=CC=NC=C2)=O | C23H31BrN4O
